* gnetlist -g spice-sdb -o ex03.net ex03.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ex03.sub vvvvvvvv
* Model
.model dmodel D()

*Diode macro model
.SUBCKT diode_power 101 102
DX    101 102   def_power_diode
Rsh   102 103   10000.0
Csh   103 101   0.01uF
.model  def_power_diode  D(RS=0.01, CJO=100pF)
.ENDS

*^^^^^^^^  End of included SPICE model from ex03.sub ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
xD1 2 1 diode_power
V1 0 2 sin(0 325 50 0 0)
R2 0 b 10  
R1 1 b 10  
.INCLUDE ex03.sub
.end
