* Model
.model dmodel D()

*Diode macro model
.SUBCKT diode_power 101 102
DX    101 102   def_power_diode
Rsh   102 103   10000.0
Csh   103 101   0.01uF
.model  def_power_diode  D(RS=0.01, CJO=100pF)
.ENDS

