* gnetlist -g spice-sdb -o pv.net pv.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from pv.sub vvvvvvvv
* Library of models
*
* -----------------------------
* Diodes
* -----------------------------
.model Def D()
* -----------------------------
*^^^^^^^^  End of included SPICE model from pv.sub ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
Ip 0 1 1A
.INCLUDE pv.sub
D1 1 0 Def 
Vo nVo 0 SIN(0 0.85 50 0 0 0)
Rsh 1 0 1e6  
Rs 1 nVo 0.1  
.end
